Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Pancoast Tumor 
 
Major Surgical or Invasive Procedure:
Left thoracotomy, Left upper lobe, Left subclavian exploration 
ligation Left vertebral.  

 
History of Present Illness:
Mr. ___ is a ___ gentleman with a left Pancoast tumor 
invading the left
subclavian artery. He had a good response of the primary tumor 
both in terms of size and max SUV after chemotherapy and 
radiation. He is admitted for a  radical resection including the 
subclavian artery, ribs, vertebral body, and left upper lobe if 
the lymph nodes were uninvolved.

 
Past Medical History:
Pancoast tumor invading the left subclavian ___ s/p 
chemotherapy and radiation.

 
Social History:
___
Family History:
Mother died of a stroke and had hypertension.

 
Physical Exam:
General: ___ year-old male in no apparent distress
HEENT: normocephalic. left ptosis, Pupils R.4mm, L3mm, reacts to 
light 
Neck: supple
Card: RRR, normal S1,S2, no murmur/gallop or rub
Resp: decreased breath sounds, otherwise clear bilateral
GI: bowel sounds positive, abdomen, soft 
non-tender/non-distended
Extr: warm no edema
Incision: left and right thoracotomy site clean, dry, intact, no 
erythema
Neuro: non-focal
 
Pertinent Results:
___ WBC-12.9* RBC-3.45* Hgb-11.4* Hct-33.9 Plt ___
___ WBC-12.3* RBC-3.29* Hgb-11.1* Hct-32.4 Plt ___
___ WBC-14.5*# RBC-3.65* Hgb-12.1* Hct-36.1 Plt ___
___ Glucose-134* UreaN-16 Creat-0.8 Na-134 K-5.0 Cl-98 
HCO3-28 
___ Glucose-165* UreaN-17 Creat-0.8 Na-135 K-4.5 Cl-102 
HCO3-28 
___ Glucose-147* UreaN-18 Creat-0.9 Na-137 K-4.5 Cl-105 
HCO3-24 
___ PLEURAL Triglyc-276

Chest PA and lateral on ___.
FINDINGS: In the interim, the left chest drainage catheter has 
been removed with no evidence of pneumothorax. Slight expansion 
of the left lung is noted. Persistent blunting of the left 
costophrenic angle and persistent elevation of the left 
hemidiaphragm could be attributed to left basilar minimal 
atelectasis. Post-surgical changes in the left thoracic inlet 
region characterized by the presence of resection of first and 
second ribs and post-surgical changes are noted. The right lung 
is clear. The midline sternal sutures appear well aligned with 
the exception of one of the most inferior suture, which is more 
vertically oriented and slightly off the midline to the left 
side.

___ 11:40 am BRONCHOALVEOLAR LAVAGE LEFT LOWER LOBE LUNG 
ASPIRATE. 
   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI. 
   RESPIRATORY CULTURE (Final ___: 
      10,000-100,000 ORGANISMS/ML. OROPHARYNGEAL FLORA. 
   ANAEROBIC CULTURE (Final ___: 
      SPECIMEN UNACCEPTABLE FOR ANAEROBES. 
      TEST CANCELLED, PATIENT CREDITED. 
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
       
 

 
Brief Hospital Course:
Mr. ___ was admitted on ___ and underwent successful Left 
hemi-clam shell (sternotomy plus fifth interspace left anterior 
thoracotomy), resection of left
Pancoast tumor (left upper lobectomy plus chest wall resections 
of ribs one and two), mediastinal lymph node dissection, 
flexible bronchoscopy. He was transfer to the SICU intubated in 
stable condition. He had an apical chest-tube, basilar ___ 
drain, a foley and Dilaudid PCA for pain control. His left upper 
extremity neuro/vascular exam was monitor closely. On POD #1 he 
was extubated and good pulmonary toileting was continued.  On 
POD #2 the NG tube was removed, he transferred to the floor, 
chest tubes were placed to water-seal. He was followed by serial 
CXRs. He was started on a clear liquid diet.  On POD #3 the 
chest-tube had a high output suspicious for a left chylothorax 
leak. Pleural triglycerides were positive. He was continued on a 
clear liquid diet and started on IV fluids. On  POD #4 he was 
seen by physical and occupational therapy who felt he did not 
warrant further treatment.  On POD #5 Right VAT thoracic duct 
ligation and flexible bronchoscopy. On POD #6 he had repeat 
flexible bronchoscopy which showed subglottic mucosal erythema, 
LUL stump intact, and thick green secretions. A sputum specimen 
was sent and grew GRAM NEGATIVE DIPLOCOCCI. He was started on 
Ciprofloxacin for possible pneumonia. The foley was removed and 
he voided without difficulty.  He was restarted on a clear 
liquid diet. His chest-tube output diminished.  On POD #7 his 
right ___ drain was removed and his diet was advanced.  On POD 
#8 the left chest-tube was removed the ___ was placed to bulb 
suction.  His Dilaudid PCA was converted to PO pain medication 
with good control. On POD #9 the ___ drain was removed.  His 
CXR revealed no pneumothorax.  He continued to make steady 
progress and was discharged to home.  He will follow-up with Dr. 
___ as an outpatient.

 
Medications on Admission:
None
 
Discharge Medications:
1. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
4. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain.
Disp:*75 Tablet(s)* Refills:*0*
5. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 2 days.
Disp:*5 Tablet(s)* Refills:*0*
6. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancoast tumor, involving Left subclavian and Left vertebral s/p 
neoadj chemo/XRT, s/p Left thoracotomy, Left upper lobe, Left 
subclavian exploration ligation Left vertebral.  

 
Discharge Condition:
Good

 
Discharge Instructions:
Call Dr. ___ ___ if experience:
-Fever > 101 or chills
-Increased shortness of breath, cough or sputum production
-Chest Pain
-Numbness or weakness left arm or hand
-Incision develops redness or discharge
Chest-tube site dressing remove and cover with a bandaid
Should site begin to drain cover with a clean dry dressing and 
change as needed to keep site dry.
You may shower
No bathing or swimming for 6 weeks
No driving while taking narcotics: Take stool softner with 
narcotics
Continue your regular diet
You may take Motrin for pain: take with food and water
Complete Ciprofloxacin course
 
Followup Instructions:
___